US05710173
2-Nitrothiophen-5-carboxaldehyde (0.157 g) and phenylsulfonyl acetonitrile (0.199 g) were stirred in 2 mL of ethanol containing 0.01 mL piperidine for four hours at 100 C. The mixture was cooled to room temperature and water was added for crystalization. The crude product was filtered and recrystalized from ethanol and water to give 0.16 g of (E)-3-(2-nitrothien-5-yl)-2-(phenylsulfonyl)acrylonitrile. Alternatively, the crude product was purified on a silica gel column with a mixture of ethylacetate and hexane as eluent.

reactant | 2-Nitrothiophen-5-carboxaldehyde | 0.157 g | [N+](=O)([O-])C=1SC(=CC1)C=O | C5H3NO3S
reactant | phenylsulfonyl acetonitrile | 0.199 g | C1(=CC=CC=C1)S(=O)(=O)CC#N | C8H7NO2S
reactant | water | O | H2O
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | (E)-3-(2-nitrothien-5-yl)-2-(phenylsulfonyl)acrylonitrile | 0.16 g | [N+](=O)([O-])C=1SC(=CC1)/C=C(\C#N)/S(=O)(=O)C1=CC=CC=C1 | C13H8N2O4S2
